US07875645B2
c) 2,6-Diethyl-benzaldehyde
A solution of 15.6 g (E)-[1-(2,6-diethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine in 60 ml THF and 120 ml 4N HCl was heated to reflux for 2 hours then cooled to ambient temperature and poured onto a 1N NaOH solution. The aqueous phase was extracted with ethyl acetate, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by flash-chromatography on silica gel with a heptane/ethyl acetate gradient as eluent: 8.35 g 2,6-diethyl-benzaldehyde as light yellow oil: MS (EI): 162.1 (M+., 100%).

reactant | (E)-[1-(2,6-diethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | 15.6 g | C(C)C1=C(C(=CC=C1)CC)\C=N\C(C(C)C)C(C)C | C18H29N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | HCl | 4N, 120 ml | Cl | ClH
product | 2,6-Diethyl-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1)CC | C11H14O
